US06911468B2
(1) (2R)-2-[4-(5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrol-2-yl)phenoxy]-3-phenylpropanoic acid
To a mixed solution of ethyl (2R)-2-[4-(5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrol-2-yl)phenoxy]-3-phenylpropanoate (550 mg, 0.865 mmol) in THF (20 ml) and methanol (10 ml) was added 1N aqueous potassium hydroxide solution (15 ml, 15 mmol) and the mixture was stirred for 1 hour at room temperature. The reaction solution was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate anhydride, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the object compound as an oily substance. 342 mg (yield: 65.0%)

reactant | ethyl (2R)-2-[4-(5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrol-2-yl)phenoxy]-3-phenylpropanoate | 0.865 mmol, 550 mg | CC1=CC=C(N1CCC1=CC=C(C=C1)OCC1CCC(CC1)CCCCC)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C42H53NO4
reactant | potassium hydroxide | 15 mmol, 1N, 15 ml | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | (2R)-2-[4-(5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrol-2-yl)phenoxy]-3-phenylpropanoic acid | yield: 65.0% | CC1=CC=C(N1CCC1=CC=C(C=C1)OCC1CCC(CC1)CCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C40H49NO4
